US06090571
b. Phenyl benz[c]acridine-7-carboxylate
Benz[c]acridine-7-carboxylic acid (6.0 g) was suspended in 75 mL thionyl chloride (3-10 mL) and reaction mixture was refluxed for 4 h. The solvent was removed under reduced pressure and the product dissolved in 75 mL of CH2Cl2. Pyridine (8.9 mL) and phenol (2.27 g) were added and the solution was stirred for 3 days at room temperature under Ar. Purification was effected by chromatography on silica gel (50% CH2Cl2 /hexane) to yield 3.05 g of the pure product as a light brown solid. 1H NMR (CDCl3) δ 7.40 (t, 1H), 7.48-7.59 (m, 4H), 7.71-8.01 (m, 7H), 8.259 (d, 1H, J=7.8 Hz), 8.465 (d, 1H, J=7.8 Hz), 9.54-9.57 (m, 1H).

reactant | Benz[c]acridine-7-carboxylic acid | 6.0 g | C1=CC=CC=2C=CC3=C(C=4C=CC=CC4N=C3C21)C(=O)O | C18H11NO2
solvent | thionyl chloride | 75 mL | S(=O)(Cl)Cl | Cl2OS
product | Phenyl benz[c]acridine-7-carboxylate | 3.05 g | C1=CC=CC=2C=CC3=C(C=4C=CC=CC4N=C3C21)C(=O)OC2=CC=CC=C2 | C24H15NO2
